US03976781
2-methoxycarbonylmethylthioethylamine hydrochloride (Method V)
13.5 g of S-(β-aminoethyl)mercaptoacetic acid and 10.8 g of 2,2-dimethoxy propane are added, successively, to a solution of 7.3 g of gaseous hydrochloride acid in 20 cc of methanol. The solution is permitted to stand for 12 hours at ambient temperature. The flakes formed (17.5 g) are filtered and washed with ethyl acetate. Fusion point = 100°C.

reactant | S-(β-aminoethyl)mercaptoacetic acid | 13.5 g | NCCSCC(=O)O | C4H9NO2S
reactant | 2,2-dimethoxy propane | 10.8 g | COC(C)(C)OC | C5H12O2
reactant | hydrochloride | 7.3 g | Cl | ClH
solvent | methanol | 20 cc | CO | CH4O
product | 2-methoxycarbonylmethylthioethylamine hydrochloride | Cl.COC(=O)CSCCN | InChI=1S/C5H11NO2S.ClH/c1-8-5(7)4-9-3-2-6;/h2-4,6H2,1H3;1H
